US05169842
1.5-anhydro-2,3-dideoxy-D-erythro-hex-2-enitol
4,6-di-O-acetyl-1,5-anhydro-2,3-dideoxy-D-erythro-hex-2-enitol (16 g; 74.7 mmol) was deacetylated with 1N sodiummethoxide (5 ml) in dry methanol (50 ml) for 3,5 h at r.t. The mixture was neutralised with ion exchange resin [Lewatit CNP-LF(H+)] and evaporated.

reactant | 4,6-di-O-acetyl-1,5-anhydro-2,3-dideoxy-D-erythro-hex-2-enitol | 74.7 mmol, 16 g | C(C)(=O)O[C@H]1C=CCO[C@@H]1COC(C)=O | C10H14O5
reactant | sodiummethoxide | 1N, 5 ml | C[O-].[Na+]
solvent | methanol | 50 ml | CO | CH4O
product | 1.5-anhydro-2,3-dideoxy-D-erythro-hex-2-enitol | C1C=C[C@H](O)[C@H](O1)CO | C6H10O3
